US05563151
A solution of nicotinaldehyde (5.1 ml, 54 mmol) in methanol (60 ml) was added to a stirred solution of piperazine (14.0 g, 160 mmol) and potassium cyanide (5.4 g, 83 mmol) in water (60 ml) and 1M phosphate buffer solution (pH 7.3: 60 ml). The reaction mixture was stirred for 48 h at ambient temperature and partitioned between water (80 ml) and ethyl acetate (2×100 ml). The organics were dried over anhydrous sodium sulphate, filtered and concentrated. Chromatography (silica gel: 2% methanol in DCM) gave 4-(3-pyridylcyanomethyl)piperazine (1.3 g, 12%) as a colourless oil.

reactant | nicotinaldehyde | 54 mmol, 5.1 ml | C(C1=CN=CC=C1)=O | C6H5NO
reactant | piperazine | 160 mmol, 14.0 g | N1CCNCC1 | C4H10N2
reactant | potassium cyanide | 83 mmol, 5.4 g | [C-]#N.[K+]
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 60 ml | O | H2O
solvent | phosphate | 1M, 60 ml, pH 7.3 | P(=O)([O-])([O-])[O-]
product | 4-(3-pyridylcyanomethyl)piperazine | 1.3 g, 12% | N1=CC(=CC=C1)C(N1CCNCC1)C#N | C11H14N4
